US05380861
0.10 g (0.5 mmol) of 2-trimethylsilylethynyl-5-chloropyridine, 0.01 g of sodium lauryl sulphate and 2 ml of deionized water are placed under an inert gas atmosphere. Subsequently, 0.25 g (15 mmol) of potassium permanganate is added thereto at 23° while stirring. After 2 hours the reaction mixture is treated with aqueous sodium bisulphite solution (about 40 percent) until, after filtration of a sample over filter paper, the violet colour of the permanganate has disappeared. The suspension is filtered over a layer of Dicalite and the filtrate is adjusted to pH 3 with 1N aqueous hydrochloric acid, whereby a white suspension results. This is cooled in an ice bath and the crystals are filtered off. The crystals are treated with 1 ml of deionized water, the suspension is again cooled to 0° and the crystals are filtered off. These are evaporated twice from methanol/toluene under reduced pressure and the residue is dried in a high vacuum. There are obtained 17 mg of 5-chloropyridine-2-carboxylic acid as a white, solid residue, m.p. 171°-172°.

reactant | 2-trimethylsilylethynyl-5-chloropyridine | 0.5 mmol, 0.10 g | C[Si](C#CC1=NC=C(C=C1)Cl)(C)C | C10H12ClNSi
reactant | sodium lauryl sulphate | 0.01 g | S(=O)(=O)(OCCCCCCCCCCCC)[O-].[Na+]
reactant | potassium permanganate | 15 mmol, 0.25 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | sodium bisulphite | S([O-])(O)=O.[Na+]
reactant | water | 2 ml | O | H2O
product | 5-chloropyridine-2-carboxylic acid | 17 mg | ClC=1C=CC(=NC1)C(=O)O | C6H4ClNO2
